US04945090
5-(4-chlorophenoxy)-3-(3-ethyl-1,2,4-oxadiazol-5-yl)-4-methoxymethyl-beta-carboline
5.74 g of 5-(4-chlorophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid are dissolved in 150 ml of absolute dimethylformamide, mixed with 2.91 g of carbonyldiimidazole and stirred for 3 hours at room temperature. To this solution is added 3.96 g of propionamidoxime, it is stirred for 8 hours, 1 g of propionamidoxime is added once more and also stirred for 8 hours. After evaporation on the oil pump vacuum, it is taken up in toluene and refluxed for 8 hours. After evaporation, it is chromatographed twice over silica gel, first with methylene chloride/ethanol=10:1 and then with hexane: acetone=1:1 as eluant. After recrystallization from ethyl acetate/hexane and drying over phosphorus pentoxide at 80° C. in a vacuum, 2.2 g of 5-(4-chlorophenoxy-3-(3-ethyl-1,2,4-oxadizaol-5-yl)-4-methoxymethyl-beta-carboline with a melting point of 170° C. is obtained.

reactant | 5-(4-chlorophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid | 5.74 g | ClC1=CC=C(OC2=C3C=4C(=C(N=CC4NC3=CC=C2)C(=O)O)COC)C=C1 | C20H15ClN2O4
reactant | carbonyldiimidazole | 2.91 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | propionamidoxime | 3.96 g | C(CC)(N)=NO | C3H8N2O
reactant | propionamidoxime | 1 g | C(CC)(N)=NO | C3H8N2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 5-(4-chlorophenoxy)-3-(3-ethyl-1,2,4-oxadiazol-5-yl)-4-methoxymethyl-beta-carboline | ClC1=CC=C(OC2=C3C=4C(=C(N=CC4NC3=CC=C2)C2=NC(=NO2)CC)COC)C=C1 | C23H19ClN4O3
